US04544400
N-methylcarbonyl 2-nitro-5-(2,4-dichlorophenoxy)aniline (2.0 g, 5.9 mmol) in 50 ml of 10% hydrochloric acid is heated under reflux for 2 hours. The reaction is cooled to RT, 10 ml of ethanol is added, and the reaction is heated under reflux for another 4 hours. The reaction is cooled to RT, made slightly basic with 20% sodium hydroxide and extracted with ether. The combined extracts are washed with water, dried and stripped to give 2-nitro-5-(2,4-dichlorophenoxy)aniline.

reactant | N-methylcarbonyl 2-nitro-5-(2,4-dichlorophenoxy)aniline | 5.9 mmol, 2.0 g | CC(=O)NC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C14H10Cl2N2O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-nitro-5-(2,4-dichlorophenoxy)aniline | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl | C12H8Cl2N2O3
